US06468995B1
A solution of 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-[(pyrazin-2-yl)methylthio]-3-cephem-4-carboxylic acid (1.5 g, 2.04 m mol) in 90% formic acid aqueous solution was stirred at room temperature for 2 hours. Insoluble material in the reaction mixture was filtered off. The filtrate was adjusted to pH 3 and washed with ethyl acetate. The aqueous solution was chromatographed on HP-20 and eluted with 5-14% isopropanol aqueous solution. The eluent was lyophilized to give crude product (275 mg). The crude product was purified with preparative HPLC to give 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(pyrazin-2-yl)methylthio]-3-cephem-4-carboxylic acid (131 mg, 0.265 m mol).

reactant | 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-[(pyrazin-2-yl)methylthio]-3-cephem-4-carboxylic acid | 1.5 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=NC=CN=C2)C(=O)O)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H29N7O5S3
solvent | formic acid | C(=O)O | CH2O2
product | 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(pyrazin-2-yl)methylthio]-3-cephem-4-carboxylic acid | 131 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=NC=CN=C2)C(=O)O)C1=O)=N/O | C17H15N7O5S3
